US05324747
A mixture of 10.2 g (0.0145 mol) of N-[3,5-bis(decyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester and 1.5 g of 10% palladium on charcoal in 500 ml of THF was shaken in a hydrogen atmosphere at room temperature for 7 hours. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to a solid which was recrystallized from acetonitrile to give 5.66 g (75% yield, mp 110°-114°) of N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine.

reactant | N-[3,5-bis(decyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester | 0.0145 mol, 10.2 g | C1(=CC=CC=C1)COC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC)=O | C44H63NO6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine | 5.66 g, 75% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC | C30H51NO6
